US04461896
The (±)-1-(3-benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid dicyclohexylamine salt thus obtained (35.6 g) was suspended in 2-propanol (200 ml) and this mixture was treated with a solution of dry hydrogen chloride in 2-propanol (27 ml) with cooling in an ice bath. The resulting dicyclohexylamine hydrochloride was filtered and washed twice with 2-propanol (20 ml). The combined filtrate and washings were concentrated under reduced pressure. The residue was dissolved in ether (300 ml) and this solution was dried over sodium sulfate and concentrated under reduced pressure to give 23.6 g of (±)-1-(3-benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid, m.p. 99°-101°.

reactant | (±)-1-(3-benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid dicyclohexylamine salt | C1(CCCCC1)NC1CCCCC1.C(C1=CC=CC=C1)(=O)SCCC(=O)N1C(CCC2=CC=CC=C12)C(=O)O
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
solvent | 2-propanol | 27 ml | CC(C)O | C3H8O
product | (±)-1-(3-benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid | 23.6 g | C(C1=CC=CC=C1)(=O)SCCC(=O)N1C(CCC2=CC=CC=C12)C(=O)O | C20H19NO4S
